US06294532B1
A solution of 6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazolin-4-one (930 mg, 3.2 mmol) in thionyl chloride (15 ml) containing DMF (150 μl) was heated at 60° C. for 1.5 hours. The volatiles were removed by evaporation. The residue was dissolved in methylene chloride, the solution was cooled to 5° C. and adjusted to pH8 by the addition of 5% aqueous sodium hydrogen carbonate solution. The organic layer was separated, washed with brine, dried (MgSO4), filtered and the volatiles were removed under vacuum. The residue was purified by column chromatography eluting with ethyl acetate to give 4-chloro-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline (863 mg, 87%).

reactant | 6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazolin-4-one | 3.2 mmol, 930 mg | COC=1C=C2C(NC=NC2=CC1OCCOCCOC)=O | C14H18N2O5
reactant | DMF | 150 μl | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloro-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline | 863 mg, 87% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOCCOC | C14H17ClN2O4
